US03988458
Upon boiling a solution of 6.8 g 2-methoxybenzaldehyde and 13.0 g amidinoacetic acid ethyl ester in 150 ml ethanol for 2 hours, 2,6-diamino-4-(2-methoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of m.p. 147° C (ethanol) is obtained.

reactant | 2-methoxybenzaldehyde | 6.8 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2,6-diamino-4-(2-methoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 72% | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)OC)C(=O)OCC)N)N | C18H23N3O5
